US08022062B2
(4-Azidomethyl-phenyl)-cyclohexyl-methanone:
Add sodium azide (441 mg, 6.785 mmol) to a stirred solution of 4-(cyclohexanecarbonyl)-benzyl bromide (954 mg, 3.393 mmol) in anhydrous DMF (20 mL) and heat the mixture to 90° C. for 2 h. Cool the mixture to room temperature, add water and extract the aqueous solution with diethyl ether. Dry the combined organic extracts over Na2SO4, filter and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with hexane and hexane/EtOAc (19:1) to give the desired intermediate as oil (310 mg, 38%).

reactant | sodium azide | 6.785 mmol, 441 mg | [N-]=[N+]=[N-].[Na+]
reactant | 4-(cyclohexanecarbonyl)-benzyl bromide | 3.393 mmol, 954 mg | C1(CCCCC1)C(=O)C1=CC=C(CBr)C=C1 | C14H17BrO
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (4-Azidomethyl-phenyl)-cyclohexyl-methanone | 310 mg, 38% | N(=[N+]=[N-])CC1=CC=C(C=C1)C(=O)C1CCCCC1 | C14H17N3O
